US06297375B1
f) Methyl-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-amine
A solution of 35 g (124 mmol) 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-ylamine in 270 ml trimethyl orthoformate and 8 drops trifluoroacetic acid was heated for 3 h at 130° C. The reaction mixture was evaporated and dried in vacuo for 30 min. The residual oil was dissolved in 100 ml tetrahydrofuran and was added dropwise under ice cooling to 9.4 g (248 mmol) lithium aluminum hydride in 300 ml tetrahydrofuran. The reaction mixture was stirred for lh at room temperature, cooled to 0° C. again and acidified (pH 1-2) by addition of 28% hydrochloric acid solution. After stirring for 5 min, 28% sodium hydroxide solution was added to reach pH 10. The solution was filtered over celite, evaporated and purified by flash chromatography to give 23.6 g (64%) of the title compound as a light brown oil.

reactant | 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-ylamine | 124 mmol, 35 g | CN1CCN(CC1)C1=CC(=C(C=N1)N)C1=C(C=CC=C1)C | C17H22N4
reactant | lithium aluminum hydride | 248 mmol, 9.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | trimethyl orthoformate | 270 ml | C(OC)(OC)OC | C4H10O3
catalyst | trifluoroacetic acid | 8 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Methyl-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-amine | 23.6 g, 64% | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)C | C18H24N4
